US04299769
As for Example 1, 3-(2-thenoyl)acrylic acid (0.01 mole) is coupled to L-proline (0.01 mole) with N,N'-carbonyldiimidazole (0.011 mole) in tetrahydrofuran to give 1-[3-(2-thenoyl)acryloyl]-L-proline.

reactant | 3-(2-thenoyl)acrylic acid | 0.01 mole | C1(=CC=CS1)C(=O)C=CC(=O)O | C8H6O3S
reactant | L-proline | 0.01 mole | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[3-(2-thenoyl)acryloyl]-L-proline | C1(=CC=CS1)C(=O)C=CC(=O)N1[C@H](C(=O)O)CCC1 | C13H13NO4S
